US06048885
Methanol (26 ml) and pyridinium p-toluenesulfonate (0.33 g, 0.0013 mol) were added to 2-(1-ethoxyethyl)oxymethylphenyl 5-methylisoxazol-3-yl ketone O-methyloxime (4.14 g, 0.013 mol), and the mixture was stirred under reflux for 0.5 hour. After completion of the reaction, half-saturated brine (300 ml) was added, and the mixture was extracted with dichloromethane (100 ml) twice. The extracts were dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 2-hydroxymethylphenyl 5-methylisoxazol-3-yl ketone O-methyloxime (2.95 g, yield: 92.1%) as a colorless oil.

reactant | Methanol | 26 ml | CO | CH4O
reactant | pyridinium p-toluenesulfonate | 0.0013 mol, 0.33 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 2-(1-ethoxyethyl)oxymethylphenyl 5-methylisoxazol-3-yl ketone O-methyloxime | 0.013 mol, 4.14 g | CON=C(C1=C(C=CC=C1)COC(C)OCC)C1=NOC(=C1)C | C17H22N2O4
solvent | brine | 300 ml | [Cl-].[Na+].O
product | 2-hydroxymethylphenyl 5-methylisoxazol-3-yl ketone O-methyloxime | 2.95 g, yield: 92.1% | CON=C(C1=C(C=CC=C1)CO)C1=NOC(=C1)C | C13H14N2O3
